US08227635B2
Preparation of 1-phenylethanol
2-Methyl-2-phenyl-1,3-dioxolane (0.5 g, 3 mmol), sodium dodecyl sulfate (0.2 g, 0.7 mmol) and a stir bar were added to the inside of a PDMS thimble. p-Toluene sulfonic acid monohydrate (0.145 g, 0.8 mmol) was dissolved in 4 mL water and added to the inside of the PDMS thimble followed by 2 mL of hexanes. LiAlH4 (0.145 g, 3.8 mmol) was added to the outside of the PDMS thimble with 5 mL hexanes. The reaction was stirred at 25° C. for 19 hours. Water (5 mL) was added. The PDMS thimble was swelled with 20 mL hexanes and 2×20 mL diethyl ether. The organics were combined and dried over MgSO4. The product was purified by column chromatography eluting with 1:4 ethyl acetate:hexanes to yield a colorless liquid (0.33 g, 89% yield). 1H NMR (CDCl3): δ 1.44 (d, J=6.9 Hz, 3H), 2.42 (s, 1H), 4.81 (q, J=6.9 Hz, 1H), 7.22-7.33 (m, 5H). 13C NMR (CDCl3): δ 25.05, 70.22, 125.31, 127.32, 128.37, 145.74.

reactant | 2-Methyl-2-phenyl-1,3-dioxolane | 3 mmol, 0.5 g | CC1(OCCO1)C1=CC=CC=C1 | C10H12O2
reactant | sodium dodecyl sulfate | 0.7 mmol, 0.2 g | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | p-Toluene sulfonic acid monohydrate | 0.8 mmol, 0.145 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | LiAlH4 | 3.8 mmol, 0.145 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | water | 4 mL | O | H2O
solvent | Water | 5 mL | O | H2O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-phenylethanol | 0.33 g, 89% yield | C1(=CC=CC=C1)C(C)O | C8H10O
